US05290780
2-Butyl-6-(1-hydroxyethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
A suspension of 2.50 g of 2-butyl-6-(1-hydroxyethyl)-4(1H)-quinazolinone, 6.79 g of 5-[4'-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole and 4.20 g of anhydrous potassium carbonate in 225 ml of dry acetone is heated at reflux for 16 hours. The reaction mixture is allowed to cool to room temperature, filtered and the filtrate evaporated in vacuo. The residue is purified by high pressure liquid chromatography on silica gel by eluting with 1:2 ethyl acetate-hexanes to afford 4.25 g of the desired product as a white solid, FAB M+H 723.

reactant | 2-butyl-6-(1-hydroxyethyl)-4(1H)-quinazolinone | 2.50 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)O | C14H18N2O2
reactant | 5-[4'-(bromomethyl)[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole | 6.79 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | potassium carbonate | 4.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 225 ml | CC(=O)C | C3H6O
product | 2-Butyl-6-(1-hydroxyethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 4.25 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(C)O | C47H42N6O2
